US08669234B2
2-(5-Bromo-1H-imidazol-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester (4 g, 12.65 mmol) was dissolved in DMF and cooled to 0° C. NaH (658 mg of 60% mineral oil dispersion, 16.45 mmol) was added and the reaction mixture was aged for 13 min before addition of SEMCl (2.7 mL, 15.18 mmol) and warming to RT. After 16 h, the reaction was quenched by water, diluted with ethyl acetate (300 mL) and washed with water and brine. The organic phase was dried over magnesium sulfate and concentrated. The crude residue was purified by silica column chromatography (10% to 30% EtOAc/hexanes) to afford 2-[5-Bromo-1-(2-trimethylsilanyl -ethoxymethyl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester (4.67 g, 83%).

reactant | 2-(5-Bromo-1H-imidazol-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 12.65 mmol, 4 g | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(=CN1)Br | C12H18BrN3O2
reactant | NaH | 16.45 mmol, 658 mg | [H-].[Na+]
reactant | SEMCl | 15.18 mmol, 2.7 mL | C[Si](C)(C)CCOCCl | C6H15ClOSi
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-[5-Bromo-1-(2-trimethylsilanyl -ethoxymethyl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 4.67 g, 83% | C(C)(C)(C)OC(=O)N1C(CCC1)C=1N(C(=CN1)Br)COCC[Si](C)(C)C | C18H32BrN3O3Si
